US04407797
Phenacyl chloride (10.5 g) is added to a suspension of 5-morpholino-1,2-dithiol-3-thione (9.85 g) in ethanol (200 cc), and the reaction mixture is kept under reflux for 3 hours. After cooling to a temperature of about 10° C., the insoluble product formed is filtered off and washed with ethanol (30 cc). After drying, N-(5-phenacylthio-1,2-dithiol-3-ylidene)-morpholinium chloride (14.3 g) is obtained, which melts at 138° C. and is solvated by 9% of ethanol.

reactant | Phenacyl chloride | 10.5 g | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
reactant | 5-morpholino-1,2-dithiol-3-thione | 9.85 g | O1CCN(CC1)C1=CC(SS1)=S | C7H9NOS3
solvent | ethanol | 200 cc | C(C)O | C2H6O
product | N-(5-phenacylthio-1,2-dithiol-3-ylidene)-morpholinium chloride | 14.3 g | [Cl-].C(C(=O)C1=CC=CC=C1)SC1=CC(SS1)=[N+]1CCOCC1 | InChI=1S/C15H16NO2S3.ClH/c17-13(12-4-2-1-3-5-12)11-19-15-10-14(20-21-15)16-6-8-18-9-7-16;/h1-5,10H,6-9,11H2;1H/q+1;/p-1
